US06861425B2
2-[(8-Methyl-8-azabicyclo[3.2.1]oct-3-yl)oxy]-1-[1-(1-methylcyclooctyl)-4-piperidinyl]-1H-benzimidazole
To a stirred suspension of NaH (60% oil suspension, 102.8 mg, 2.57 mmol was used after washing with n-hexane) in DMF (1.5 ml) was added a solution of tropine (190.6 mg, 1.35 mmol) in DMF (1.5 ml) dropwise at 0° C. After 0.5 hour stirring, a solution of 2-chloro-1-[1-(1-methylcyclooctyl)-4-piperidinyl]-1H-benzimidazole (162 mg, 0.45 mmol) in DMF (3 ml) was added to the reaction mixture at 0° C. The resulting mixture was stirred at room temperature for 23 hours and then at 120° C. for 19 hours. After cooling down to 0° C., the reaction mixture was quenched with water and extracted with CH2Cl2. The extracts combined were washed with brine, dried (Na2SO4), filtered, and concentrated to give 391.1 mg of crude oil, which was purified by preparative TLC (1 mm thick plate×3, CH2Cl2/MeOH:10/1) to afford 42.3 mg (20%) of title compound as a brown oil.

reactant | NaH | 2.57 mmol, 102.8 mg | [H-].[Na+]
reactant | tropine | 1.35 mmol, 190.6 mg | CN1C2CCC1CC(C2)O | C8H15NO
reactant | 2-chloro-1-[1-(1-methylcyclooctyl)-4-piperidinyl]-1H-benzimidazole | 0.45 mmol, 162 mg | ClC1=NC2=C(N1C1CCN(CC1)C1(CCCCCCC1)C)C=CC=C2 | C21H30ClN3
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[(8-Methyl-8-azabicyclo[3.2.1]oct-3-yl)oxy]-1-[1-(1-methylcyclooctyl)-4-piperidinyl]-1H-benzimidazole | 42.3 mg, 20% | CN1C2CC(CC1CC2)OC2=NC1=C(N2C2CCN(CC2)C2(CCCCCCC2)C)C=CC=C1 | C29H44N4O
